US05420275
2-Chloro-3,4-diethoxycarbonyl-6-(4-hydroxyphenyl)-5-nitropyridine
In 2.5 ml of phosphorus oxychloride was suspended 130 mg of 3,4-diethoxycarbonyl-2-hydroxy-6-(4-hydroxyphenyl)-5-nitropyridine, whereto 0.4 ml of DMF was added. The mixture was heated at 100° C. for 30 minutes. Then, 0.4 ml of DMF was added and the mixture was heated for further 30 minutes. After the solvent was distilled off, ice-water was added, followed by neutralization with sodium hydrogencarbonate and extraction with ethyl acetate. After the organic layer was washed with water and a saturated aqueous solution of sodium chloride and dried, the solvent was distilled off. The residue was purified by silica gel column chromatography (eluent:ethyl acetate).

reactant | 3,4-diethoxycarbonyl-2-hydroxy-6-(4-hydroxyphenyl)-5-nitropyridine | 130 mg | C(C)OC(=O)C=1C(=NC(=C(C1C(=O)OCC)[N+](=O)[O-])C1=CC=C(C=C1)O)O | C17H16N2O8
reactant | DMF | CN(C)C=O | C3H7NO
reactant | DMF | 0.4 ml | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 2.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-3,4-diethoxycarbonyl-6-(4-hydroxyphenyl)-5-nitropyridine | ClC1=NC(=C(C(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C1=CC=C(C=C1)O | C17H15ClN2O7
